US07067517B2
Methyl-phenyl-carbamic acid quinolin-7-yl ester
The title product was prepared from 7-hydroxyquinoline and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (28%, white solid). HPLC-MS: m/z=279.1 (M+1); Rt: 2.55 min.

reactant | 7-hydroxyquinoline | OC1=CC=C2C=CC=NC2=C1 | C9H7NO
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid quinolin-7-yl ester | N1=CC=CC2=CC=C(C=C12)OC(N(C1=CC=CC=C1)C)=O | C17H14N2O2
